US06039939
N-Dodecanoyl-L-threonine dodecyl ester
The L-threonine dodecyl ester (8.8 g) was dissolved in 1,4-dioxane (60 ml) and water (50 ml), and sodium hydrogencarbonate (3 g, 35.7 mmol) and N-succinimidyl laurate (6.48 g, 21.8 mmol) were added. The cloudy mixture was refluxed at approximately 90° C. for 1 hour and then left to cool. At 50° C., the mixture was adjusted to pH 2-3 using 10% HCl and cooled to 15 to 20° C. in an ice bath. At approximately 40° C. the product begins to precipitate out. The crude product is filtered off, washed with water and recrystallized from methanol. Yield: 7.75 g (16.5 mmol, 78% over 2 steps) of colourless crystalline needles (HPLC>99%). m.p.: 97-98° C., 1H-NMR (CDCl3)δ=0.86 to 0.90 (6H, mn), 1.23 (3H, d, 6.4 Hz), 1.24 to 134 (34H, m), 1.60 to 1.70(4H, m), 2.00 (1H, d, 5.8 Hz), 2.43 (2H, dd, 2*7.4 Hz), 4.16 (2H, t, 6.8 Hz), 4.30 to 4.37 (1H, m), 4.61 (1H, dd, 8.8 Hz, 2.6 Hz), 6.15 ppm (1H, d, 8.8 Hz); 13C-NMR (CDCl3)δ=173.7 (s), 171.3 (s), 68.3 (d), 65.9 (t), 57.0 (d), 36.7 (t), 31.9 (2C, t), 29.7 (2C, t), 29.6 (5C, t), 29.5 (t), 29.4 (2C, t), 29.3 (t), 29.2 (t), 28.5 (t), 25.8(t), 25.7 (t), 22.7 (2C, t), 20.0 (q), 14.1 ppm (2C, q); elemental analysis: calc.: C 71.6%, H 11.8%, N 3.0%, O 13.6%; found: C 71.8%, H 11.2%, N 2.9%, O 13.5%.

reactant | L-threonine dodecyl ester | 8.8 g | C(CCCCCCCCCCC)OC([C@@H](N)[C@H](O)C)=O | C16H33NO3
reactant | sodium hydrogencarbonate | 35.7 mmol, 3 g | C(O)([O-])=O.[Na+]
reactant | HCl | Cl | ClH
solvent | 1,4-dioxane | 60 ml | O1CCOCC1 | C4H8O2
solvent | water | 50 ml | O | H2O
product | N-Dodecanoyl-L-threonine dodecyl ester | C(CCCCCCCCCCC)OC([C@@H](NC(CCCCCCCCCCC)=O)[C@H](O)C)=O | C28H55NO4
